*****************************************************************
* NXP BUK7Y29-40E
*
* Polarity N-Channel
* Ratings 40V/2.900000E-002OHMS/25.5352099845076A
*
* Date Created Mon Feb 04 07:50:38 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y29-40E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.012439598013873 TC=0.011404516226383,-6.13887359144386E-05
RBD 9 4 0.0055161874542407 TC=0.011404516226383,-6.13887359144386E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.18058161678657e-10
RG 1 2 0.865833761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	349.245
+ -16	349.066
+ -10	348.516
+ -5	344.549
+ -4	367.518
+ -3	342.475
+ -2	287.787
+ -1	235.811
+ -0.5	208.353
+ -0.2	190.039
+ -0.1	189.503
+ 0	176.12696
+ 0.1	148.55628
+ 0.2	148.39564
+ 0.5	122.51548
+ 1	105.69536
+ 2	92.70308
+ 3	86.0249
+ 4	81.72124
+ 5	78.55873
+ 6	76.08806
+ 8	72.48574
+ 10	69.96201
+ 12	68.04508
+ 15	65.82508
+ 20	63.00338
+ 32	58.43463



.MODEL MINT NMOS(Vto=4.42130010125577 Kp=1.784125e+001 Nfs=1630000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=4.70420390322396e-14
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=2.5774444e-10 Tt=7.776e-09)

.ENDS

